US09210927B2
Step 2. (E)-N-(2-Aminoethyl)-2-bromo-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-enyl)benzamide
TFA (0.5 mL) was added to a stirred solution of (E)-tert-butyl 2-(2-bromo-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-enyl)benzamido)ethylcarbamate (200 mg, 0.31 mmol) in CH2Cl2 (10 mL) at 0° C. and the reaction mixture was then stirred at ambient temperature for 18 h. The volatiles were evaporated under reduced pressure; water was added to the residue and the mixture was extracted with CH2Cl2. The organic layer was washed with brine, dried (Na2SO4), filtered, concentrated and the residue was purified by column chromatography on silica (100-200 mesh) eluting with 1-5% MeOH in CH2Cl2 to afford the title compound as a brown solid (50 mg, 31%): 1H NMR (400 MHz, DMSO-d6) δ 8.56 (bs, 1H), 7.70 (bs, 2H), 7.94-7.91 (m, 3H), 7.62-7.59 (m, 1H), 7.50 (d, J=7.6 Hz, 1H), 7.00 (dd, J=15.6, 9.2 Hz, 1H), 6.77 (d, J=15.6 Hz, 1H), 4.84-4.81 (m, 1H), 3.46-3.41 (m, 2H), 2.95-2.92 (m, 2H); ESIMS m/z 528.72 ([M+H]+); IR (thin film) 3435, 1671, 1113, 722, 555 cm−1.

reactant | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | (E)-tert-butyl 2-(2-bromo-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-enyl)benzamido)ethylcarbamate | 0.31 mmol, 200 mg | BrC1=C(C(=O)NCCNC(OC(C)(C)C)=O)C=CC(=C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C24H23BrCl3F3N2O3
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | (E)-N-(2-Aminoethyl)-2-bromo-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-enyl)benzamide | 50 mg, 31% | NCCNC(C1=C(C=C(C=C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl)Br)=O | C19H15BrCl3F3N2O
